US08476295B2
4-(4-((1SR,4SR,7RS)-2-azabicyclo[2.2.1]heptan-7-ylamino)phenyl)-1,2,5-oxadiazol-3-amine, Intermediate 40
Reaction of 4-(4-aminophenyl)-1,2,5-oxadiazol-3-amine with 2-benzyl-2-azabicyclo[2.2.1]heptan-7-one (J. R. Malpass, S. Handa, and R. White, Org. Lett., 2005, 7, 2759-2762) affords the title compound as the benzyl-protected amine. Purification by chromatography followed by removal of the benzyl group by hydrogenolysis affords the title amine.

reactant | 4-(4-aminophenyl)-1,2,5-oxadiazol-3-amine | NC1=CC=C(C=C1)C=1C(=NON1)N | C8H8N4O
reactant | 2-benzyl-2-azabicyclo[2.2.1]heptan-7-one | C(C1=CC=CC=C1)N1C2CCC(C1)C2=O | C13H15NO
product | 4-(4-((1SR,4SR,7RS)-2-azabicyclo[2.2.1]heptan-7-ylamino)phenyl)-1,2,5-oxadiazol-3-amine | C12NCC(CC1)C2NC2=CC=C(C=C2)C=2C(=NON2)N | C14H17N5O
